US07625932B2
Preparation of 3-methylthio-2-[4-(4,4,5,5-tetramethyl(1,3,2-dioxaborolan-2-yl))phenyl]thiophene
A solution of 2-(4-bromophenyl)-3-methylthiothiophene (12 g, 42 mmol, preparation 3), bis(pinacolato)diboron (11.8 g, 46.2 mmol), potassium acetate (13.6 g, 138.9 mmol), PdCl2(dppf) (3.42 g, 4.2 mmol) in anhydrous DMSO (150 ml) is stirred at 80° C. for 12 hours. The reaction mixture is then cooled to room temperature diluted with ethyl acetate (200 ml) and washed with water (3×100 ml). The organic layer is separated and dried with magnesium sulphate. To this solution, 10 g of silica is added and the solvent is evaporated. The resulting mixture is placed in a sintered glass funnel and eluted with a 10:1 mixture of Hexane/EtOAc. The catalyst remains in the silica The solvent is evaporated and the obtained solid is disaggregated with hexane (to eliminate most of the bis(pinacolato)diboron which is the major impurity) yielding 6 g (50%) of the title compound. NOTE: Several attempts to purify the product by column chromatography were performed but in all cases some bis(pinacolato)diboron is obtained as an impurity.

reactant | 2-(4-bromophenyl)-3-methylthiothiophene | 42 mmol, 12 g | BrC1=CC=C(C=C1)C=1SC=CC1SC | C11H9BrS2
reactant | bis(pinacolato)diboron | 46.2 mmol, 11.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 138.9 mmol, 13.6 g | C(C)(=O)[O-].[K+]
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 4.2 mmol, 3.42 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-methylthio-2-[4-(4,4,5,5-tetramethyl(1,3,2-dioxaborolan-2-yl))phenyl]thiophene | 6 g, 50% | CSC1=C(SC=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C17H21BO2S2
